US06809110B2
In analogy to the procedure described in example 17 d], (2S)-3-(4-benzyloxy-2-ethyl-phenyl)-2-ethoxy-propionic acid methyl ester was hydrogenated over 10% palladium on charcoal to give (2S)-2-ethoxy-3-(2-ethyl-4-hydroxy-phenyl)-propionic acid methyl ester as colorless liquid.

reactant | (2S)-3-(4-benzyloxy-2-ethyl-phenyl)-2-ethoxy-propionic acid methyl ester | COC([C@H](CC1=C(C=C(C=C1)OCC1=CC=CC=C1)CC)OCC)=O | C21H26O4
catalyst | palladium on charcoal | [Pd] | Pd
product | (2S)-2-ethoxy-3-(2-ethyl-4-hydroxy-phenyl)-propionic acid methyl ester | COC([C@H](CC1=C(C=C(C=C1)O)CC)OCC)=O | C14H20O4
